US07371772B2
To (−)-4-{[(1-propyl-1H-imidazol-5-yl)methyl]sulfenyl}phenylamine di-p-toluoyl-D-tartarate monohydrate (5 g) were added 1N hydrochloric acid (25 ml) and ethyl acetate (15 ml) to effect reverse extraction. To the aqueous layer was added aqueous 25% potassium carbonate solution (25 ml) (pH 9) and the mixture was extracted with 25 ml of ethyl acetate-IPA (4:1) three times. The organic layer was washed with saturated brine (25 ml) and dried with magnesium sulfate. The solvent was distilled off to give (−)-4-{[(1-propyl-1H-imidazol-5-yl)methyl]sulfinyl}phenylamine.

reactant | (−)-4-{[(1-propyl-1H-imidazol-5-yl)methyl]sulfenyl}phenylamine di-p-toluoyl-D-tartarate monohydrate | 5 g | O.C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C.C(CC)N1C=NC=C1CSC1=CC=C(C=C1)N
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | (−)-4-{[(1-propyl-1H-imidazol-5-yl)methyl]sulfinyl}phenylamine | C(CC)N1C=NC=C1CS(=O)C1=CC=C(C=C1)N | C13H17N3OS
